US07259183B2
Preparation of 4-Fluoro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(4-fluoro-phenyl)-ethyl]-amide 84
To a solution of 59 mg (0.33 mmol) of 4-fluoro-1H-indole-7-carboxylic acid and 86 mg (0.3 mmol) of (4-tert-butyl-benzyl)-[2-(4-fluoro-phenyl)-ethyl]-amine in 3 ml DCM 63 mg (0.33 mmol) of EDC.HCl were added and the reaction mixture was stirred over night at rt. The product was purified by column chromatography (20 g silica gel; heptane/EtOAc 4:1) to yield 96 mg (72%) product as a colorless viscous oil. MS (ISP) 447.4 (M+H)+.

reactant | 4-fluoro-1H-indole-7-carboxylic acid | 0.33 mmol, 59 mg | FC1=C2C=CNC2=C(C=C1)C(=O)O | C9H6FNO2
reactant | (4-tert-butyl-benzyl)-[2-(4-fluoro-phenyl)-ethyl]-amine | 0.3 mmol, 86 mg | C(C)(C)(C)C1=CC=C(CNCCC2=CC=C(C=C2)F)C=C1 | C19H24FN
reactant | DCM | 0.33 mmol, 3 ml, 63 mg | C(Cl)Cl | CH2Cl2
reactant | EDC.HCl | CCN=C=NCCCN(C)C.Cl
product | 4-Fluoro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(4-fluoro-phenyl)-ethyl]-amide | 96 mg, 72% | C(C)(C)(C)C1=CC=C(CN(C(=O)C=2C=CC(=C3C=CNC23)F)CCC2=CC=C(C=C2)F)C=C1 | C28H28F2N2O
